US06576645B1
b) 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)butan-1-one
is prepared by using the method described in the example 4d starting from 1-{4-[2-(2-benzyloxyethoxy)ethoxy]phenyl}-2-phenylethanone (8.4g, 21.5 mmol) and 2-(tetrahydropyran-2-yloxy)ethyl iodide (6.6 g, 25.8 mmol). The product (11.7 g) is used in the next reaction step without further purification.

reactant | 1-{4-[2-(2-benzyloxyethoxy)ethoxy]phenyl}-2-phenylethanone | 21.5 mmol, 8.4g | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C25H26O4
reactant | 2-(tetrahydropyran-2-yloxy)ethyl iodide | 25.8 mmol, 6.6 g | O1C(CCCC1)OCCI | C7H13IO2
product | 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-2-phenyl-4-(tetrahydropyran-2-yloxy)butan-1-one | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(C(CCOC1OCCCC1)C1=CC=CC=C1)=O | C32H38O6
